US04073795
Alpha-acetamido-6-methylindole-3-acrylic acid ethylester
A 3-l. three-necked flask, equipped with a mechanical stirrer, a thermometer and a dropping funnel with pressure-equalizing arm was charged with 100 g (0.63 mol) of 6-methylindole-3-carboxaldehyde, 119 g (0.63 mol) of acetamidomalonic acid monoethylester and 500 ml of pyridine. The mixture was stirred and kept at 15° with a cold water bath while 175 ml of acetic anhydride was added over 15 minutes. The yellow solution was stirred at room temperature for 3 hours. Then an additional portion of 36 g (0.19 mol) of acetamidomalonic acid monoethyl ester was added and stirring at room temperature was continued for 22 hours before 1 kg of ice was added. The temperature fell to -10° and the product began to precipitate. The suspension was stirred at room temperature for 5 hours and poured into 2 1 of water. After 20 minutes, the precipitate was collected by suction filtration, washed with water and dried at 50° in an air oven overnight to afford 159.5 g (89%) of crude product as yellow crystals, m.p. 159°-162° (sinters at 75°).

reactant | 6-methylindole-3-carboxaldehyde | 0.63 mol, 100 g | CC1=CC=C2C(=CNC2=C1)C=O | C10H9NO
reactant | acetamidomalonic acid monoethylester | 0.63 mol, 119 g | C(C)OC(C(C(=O)O)NC(C)=O)=O | C7H11NO5
reactant | acetic anhydride | 175 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetamidomalonic acid monoethyl ester | 0.19 mol, 36 g | C(C)OC(C(C(=O)O)NC(C)=O)=O | C7H11NO5
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | Alpha-acetamido-6-methylindole-3-acrylic acid ethylester | 159.5 g, 89% | C(C)OC(C(=CC1=CNC2=CC(=CC=C12)C)NC(C)=O)=O | C16H18N2O3
